US09120749B2
1-{6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}-3-methylbutan-1-one
Following general procedure D, 1-{6-bromo-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}-3-methylbutan-1-one (13 mg, 0.030 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (21 mg, 0.075 mmol) to afford the desired product (8.8 mg, 58%) as a yellow solid: NMR (500 MHz, CD3OD) δ 8.94 (s, 1H), 8.35 (d, J=1.8 Hz, 1H), 8.03 (dd, J=8.7, 1.9 Hz, 1H), 7.90 (d, J=8.7 Hz, 1H), 7.29 (d, J=2.1 Hz, 1H), 7.22 (d, J=2.1 Hz, 1H), 4.24 (t, J=10.8 Hz, 1H), 3.99 (s, 3H), 2.94 (d, J=7.0 Hz, 2H), 2.82 (s, 1H), 2.53 (s, 6H), 2.42 (d, J=12.0 Hz, 2H), 2.33-2.21 (m, 1H), 2.14 (d, J=12.0 Hz, 2H), 1.72-1.53 (m, 4H), 1.03 (d, J=6.7 Hz, 6H); ESI MS m/z 510 [C29H36ClN3O3+H]+; HPLC>99% (AUC), tR=11.38 min.

reactant | 1-{6-bromo-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}-3-methylbutan-1-one | 0.030 mmol, 13 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CC(C)C)=O)N[C@@H]1CC[C@H](CC1)N(C)C | C22H30BrN3O
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.075 mmol, 21 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | 1-{6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}-3-methylbutan-1-one | 8.8 mg, 58% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(CC(C)C)=O)N[C@@H]1CC[C@H](CC1)N(C)C | C29H36ClN3O3
